US05891889
Step A: 1-(4 Cyanobenzyl)-5-nitro-1H-imidazole.
A solution of 4-nitroimidazole (2,25 g, 19.9 mmol) and 4-cyanobenzyl bromide (3.90 g, 19.9 mmol) in acetonitrile (10 ml) was stirred at 50° C. for 72 hrs. The reaction was allowed to cool to room temperature and diethyl ether (70 ml) was added. The precipitate was removed by filtration and the filtrate partitioned between EtOAc and NaHCO3 solution. The organic extract was dried (MgSO4) and the solvent evaporated in vacuo. The residue was chromatographed (SiO2, 5% MeOH in CH2Cl2) to afford a solid that was triturated with hot ethanol, and washed with diethyl ether, to afford the product as an off white solid.

reactant | 4-nitroimidazole | 19.9 mmol, 2,25 g | [N+](=O)([O-])C=1N=CNC1 | C3H3N3O2
reactant | 4-cyanobenzyl bromide | 19.9 mmol, 3.90 g | C(#N)C1=CC=C(CBr)C=C1 | C8H6BrN
reactant | diethyl ether | 70 ml | C(C)OCC | C4H10O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1-(4 Cyanobenzyl)-5-nitro-1H-imidazole | C(#N)C1=CC=C(CN2C=NC=C2[N+](=O)[O-])C=C1 | C11H8N4O2
